US05409943
(b) N-[3-(2,4,6-Trifluorobenzyloxy)pyrid-2-yl-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2,4,6-trifluorobenzyloxy)pyridine (2.29 g, 0.009 mol), 4chlorophenyl isothiocyanate (1.81 g, 0.01 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 3.03 g (79.5%), m.p.181°-183 ° C.

reactant | 2-amino-3-(2,4,6-trifluorobenzyloxy)pyridine | 0.009 mol, 2.29 g | NC1=NC=CC=C1OCC1=C(C=C(C=C1F)F)F | C12H9F3N2O
reactant | 4chlorophenyl isothiocyanate | 0.01 mol, 1.81 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(2,4,6-Trifluorobenzyloxy)pyrid-2-yl-N'-(4-chlorophenyl)thiourea | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC(=C1)F)F | C19H13ClF3N3OS
